data/mechanisms/records/IMS8-EQ8.34.json
{"mechanism_id": "IMS8-EQ8.34", "species": [{"species_id": "methylpiperidine_molecular_ion", "mapped_smiles": "[NH+:1]1[CH:2]([CH3:7])[CH2:3][CH2:4][CH2:5][CH2:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "cyclic_iminium_ion", "mapped_smiles": "[NH+:1]1=[CH:2][CH2:3][CH2:4][CH2:5][CH2:6]1", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:7]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "azadiene_cation_mz56", "mapped_smiles": "[CH2:3]=[CH:2][NH+:1]=[CH2:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethylene_neutral_loss", "mapped_smiles": "[CH2:4]=[CH2:5]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methylpiperidine_molecular_ion"]}, {"state_id": "state_iminium", "species_ids": ["cyclic_iminium_ion", "methyl_radical"]}, {"state_id": "state_products", "species_ids": ["azadiene_cation_mz56", "ethylene_neutral_loss", "methyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_iminium", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_retro_diels_alder", "from_state": "state_iminium", "to_state": "state_products", "step_class": "retro_diels_alder", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha_8_34", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 163, "equation": "8.34", "figure": null, "panel": null, "section": "8.4 Reaction initiation at radical or charge sites"}, "confidence": 0.85, "curator_note": "alpha-cleavage of the n-ionized 2-methylpiperidine molecular ion (Budzikiewicz et al. 1967, p.316; the alpha-cleavage product ion of Equation 8.34). Convention B/C localization: the molecular ion is drawn '+.' on the ring nitrogen, so the mapped SMILES places BOTH the charge and the odd electron on N (map 1): [NH+] with two ring bonds + one N-H is a 3-connection nitrogen aminium radical cation (RDKit assigns the one unpaired electron automatically). alpha-cleavage of the C2-CH3 bond (map2-map7) expels CH3. (map 7), forms the C2=N+ iminium pi bond (map1-map2) and gives the closed-shell cyclic iminium ion (2,3,4,5-tetrahydropyridinium, C5H10N+, m/z 84, an intermediate not printed on the page). ARC COUNT: Book draws 2 arc(s) on the molecular ion (the two fishhooks at C2/N) - move <1> (the odd electron on N, map 1, into the forming C2=N pi bond) is the lower fishhook, move <2> (one electron of the breaking C2-CH3 sigma bond into that same pi bond) is the upper fishhook. Move <3> (the other C2-CH3 electron onto the departing methyl carbon, map 7, its new radical site) is the implicit homolysis hook required for electron balance (not drawn on the page; CH3. is simply written as '-CH3' over the arrow)."}, {"evidence_id": "evidence_step_rda_8_34", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_retro_diels_alder", "support_type": "textbook_proposed", "locator": {"page": 163, "equation": "8.34", "figure": null, "panel": null, "section": "8.4 Reaction initiation at radical or charge sites (retro-Diels-Alder of the alpha-cleavage product ion, arrow labelled 'i')"}, "confidence": 0.85, "curator_note": "retro-Diels-Alder of the cyclic iminium ion (arrow labelled 'i'): the closed-shell six-membered iminium (ring N1=C2-C3-C4-C5-C6) undergoes a concerted retro-[4+2], expelling neutral ethylene (from C4-C5, maps 4/5) and giving the conjugated 2-aza-1,3-butadiene cation CH2=CH-N+(H)=CH2 (maps 3=2-1=6), m/z 56, exactly as drawn. ARC COUNT: Book draws 3 arc(s) inside the iminium ring and all three are encoded as double-barbed (2-electron) arrows - move <1> (top-right arc): the N1=C2 pi pair shifts to the C2-C3 bond (forms C2=C3); move <2> (left arc): the C3-C4 sigma pair shifts to the C4-C5 bond (forms the C4=C5 of ethylene, breaking C3-C4); move <3> (bottom arc): the C5-C6 sigma pair shifts to the N1-C6 bond (forms N1=C6, breaking C5-C6). Both cleaved ring sigma bonds (C3-C4 and C5-C6) are the bonds beta to the ring double bond, correct retro-Diels-Alder geometry. The expelled CH3. of the first step is carried as an unreacting spectator through this state so the step stays atom-balanced. DELOCALIZATION (convention C): the m/z 56 product is written in the single Kekule form CH2=CH-N+(H)=CH2 that these arrows produce, matching the page drawing (vinyl at top, +NH, =CH2 at bottom)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 99.1043, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_56", "species_id": "azadiene_cation_mz56", "step_id": "step_retro_diels_alder", "observed_mz": 56.0495, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
